US07951826B2
4-(3-Methanesulfonyl-propoxy)-benzoic acid methyl ester
The title compound is prepared in a manner substantially analogous to Procedure C starting from 4-(3-bromo-propoxy)-benzoic acid methyl ester and methanesulfinic acid sodium salt using DMF as solvent. MS (ES+) 273.1.

reactant | 4-(3-bromo-propoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCCCBr)=O | C11H13BrO3
reactant | methanesulfinic acid sodium salt | [Na+].CS(=O)[O-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(3-Methanesulfonyl-propoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCCCS(=O)(=O)C)=O | C12H16O5S
